2130-08-31 11:21:00 Physician Attending Progress Note
Chief Complaint: hypotension
   acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2130-8-30**] 11:30 AM
   RENAL:  No hypdronephrosis
 TRANSTHORACIC ECHO - At [**2130-8-30**] 03:30 PM: EF > 55%, mild MR, mild
   PAH: mild LVH, dilated ascending aorta
   Repeat CXR - no CHF
   Episode of SBP 70-80's; asymptomatic, mentating.  Responsive to IVF
   challenge
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-8-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-31**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (75 - 102) bpm
   BP: 98/55(66) {72/38(47) - 117/89(95)} mmHg
   RR: 20 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 82.5 kg (admission): 83.3 kg
             Total In:
                                                                  1,490 mL
                                                                  2,360 mL
   PO:
                                                                    740 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    750 mL
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,020 mL
   Urine:
                                                                  2,855 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,365 mL
                                                                  1,340 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   209 K/uL
   121 mg/dL
   1.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   50 mg/dL
   116 mEq/L
   142 mEq/L
   29.8 %
   12.9 K/uL
        [image002.jpg]
                             [**2130-8-30**]  01:18 AM
                             [**2130-8-31**]  06:00 AM
   WBC
   11.4
   12.9
   Hct
   31.8
   29.8
   Plt
   227
   209
   Cr
   2.9
   1.8
   Glucose
   65
   121
   Other labs: PT / PTT / INR:11.6/22.8/1.0, Ca++:8.9 mg/dL, Mg++:1.6
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR (PA/lateral):  No CHF
   Microbiology: UCx, Blood Cx NGTD
   Assessment and Plan
 H/O DIABETES MELLITUS (DM), TYPE II:  RISS, diabetic diet.
   Tolerating po intake.
 H/O HEART BLOCK, COMPLETE (CHB): Paced.
 H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC: No evidence of CHF on
   xray yesterday.  Exam not suggestive of CHF even with IVF boluses
   overnight for low blood pressure.
 HYPOTENSION (NOT SHOCK): No evident adrenal insufficiency on [**Last Name (un) **]
   stimulation test.  Echo shows preserved LVEF.  No growth on cultures,
   does not appear toxic.  Seemingly more likely that this is more likely
   related to autonomic dysfunction in setting of DM and Parkinson's.
   Consult autonomic fellow.  Holding diuretics.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Cr trending down.
   Despite getting mutlitple fluid challenges fluid balance relatively
   even.  [**Month (only) 8**] have an element of postobstructive diuresis (had large
   volume retained urine on presentation).
 HYPERKALEMIA secondary to acute renal failure.  Resolved.
 ANEMIA:  Hct stable.
 COMPRESSION FRACTURE:  Started on calcium, vit D.
 PARKINSON'S DISEASE:  Continue current treatment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-8-30**] 04:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2130-09-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - autonomic fellow recs: none
   - orthostatic: neg
   - urine culture from [**8-29**] grew coag+ staph aureus and GBS
   (10,000-100,000), no antibiotics for now. repeat UA and urine culture
   sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-9-1**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-9-1**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 84 (78 - 120) bpm
   BP: 92/53(63) {88/41(53) - 127/85(89)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 83.3 kg (admission): 83.3 kg
                  Total In:
                                                                  2,760 mL
                  PO:
                                                                    760 mL
                  TF:
   IVF:
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                      0 mL
   Urine:
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General: Alert, awake, oriented x3, no acute distress
   HEENT: dry mucous membranes
   Lungs: good air movement, bibasilar crackles, no wheezes
   CV: RRR, distant heart sounds no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   237 K/uL
   9.8 g/dL
   134 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.8 mEq/L
   36 mg/dL
   113 mEq/L
   145 mEq/L
   28.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2130-8-30**]  01:18 AM
                             [**2130-8-31**]  06:00 AM
                             [**2130-9-1**]  04:28 AM
   WBC
   11.4
   12.9
   14.4
   Hct
   31.8
   29.8
   28.4
   Plt
   227
   209
   237
   Cr
   2.9
   1.8
   1.6
   Glucose
   65
   121
   134
   Other labs:
   Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   MICRO:
   Bld cx pending
   Urine cx:
      STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
      BETA STREPTOCOCCUS GROUP B.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
   Mr. [**Known lastname 6192**] is a 82 yo male with h/o HTN, HL, CHF, prior CVA,
   parkininsons, complete heart blck s/p ICD placement, now admitted to
   ICU for hypotension and ARF.
   .
   # Hypotension: Diff incl sepsis (though afebrile, no leukocytosis, cx
   neg), PE (no SOB, CP), ACS (no EKG changes, CP, dyspnea), pericardial
   effusion (shock u/s neg, no JVD, neg TTE), and most likely dehydration
   [**1-23**] low PO intake.  Other consideration is autonomic insufficiency
   associated with advancing parkinson's, diabetes and age.
   - had not needed pressors
   - rec
d IVF PRN for low BPs
   - f/u orthostatics
   - continue holding carvedilol, lasix, benzapril, spironolactone
   - TTE showed normal EF, no pericardial effusion
   - consult autonomic fellow
   - continuing low BPs requiring IVF with good UOP may be result of
   post-obstruction diuresis
   - cosyn stim test was negative for adrenal insufficiency
   .
   # ARF: Diff incl prerenal (h/o low PO intake), postrenal (h/o BPH) and
   intrinsic (ATN [**1-23**] to renal ischemia from hypotension, no h/o
   nephrotoxins).
   - renal u/s showed no hydronephrosis
   - FeUrea is 17%, indicating there is a prerenal component
   - continue IVF PRN (be cautious bc of h/o CHF)
   - hold lasix, spironolactone, benzapril
   - could be post-renal that is improving with Foley catheter (pt admits
   to hesitancy, urgency, nocturia in context of h/o BPH)
   - urine eos positive, indicating possibility of AIN
   .
   # Asymptomatic bacteruria/leukocytosis:
   - UA from admission had few bacteria, WBC
   - urine cx from admission grew coag+ staph aureus and GBS
   (10,000-100,000), no antibiotics for now
   - f/u on repeat UA and urine culture sent
   - could consider abx in future
   .
   # Hyperkalemia: now resolved. likely [**1-23**] ARF, asymptomatic, no EKG
   changes
   - was given calcium gluconate, bicarb, insulin/dextrose, kayexalate in
   ED
   - IVF and trend
   - hold home KCl, spironolactone, benzapril
   .
   # CHF: stable, no SOB or clinical manifestations of volume overload
   - hold lasix and spiranolactone bc ARF, hypotension
   - hold carvedilol bc hypotension
   - TTE shows normal EF
   - continue ASA 81mg daily
   .
   # HTN:
   - hold carvedilol bc hypotension
   .
   # HL/prior CVA: stable
   - continue welchol, pravastatin
   - continue aggrenox
   .
   # DMII: stable
   - ISS
   - restart home glipizide
   .
   #Rib lesion on imaging: can be [**1-23**] to an underlying malignancy
   - rectal exam and PSA level as outpatient
   .
   # Compression fx on imaging: pt is asymptomatic
   - started Ca/VitD suppl
   .
   # Alzheimer's: stable
   - continue rivastigmine
   .
   # Gout: stable
   - will restart renally dosed allopurinol
   .
   # Parkinsons: stable
   - continue carbidopa-levodopa
   .
   # OSA: pt not compliant with CPAP at home. pt undergoing testing for
   special settings for CPAP at home.
   - unclear what settings for home CPAP
   - defer to outpatient w/u
   ICU Care
   Nutrition IVF PRN, replete electrolytes, regular diet
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2130-8-30**] 04:36 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient, ([**Telephone/Fax (1) 8759**] WIFE'S CELL PHONE
   Code status: DNR/DNI
   Disposition: transfer to floor  today

2130-09-01 10:59:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Orthostatics negative
   Foley discontinued
   Autonomic fellow consulted
   No complaints overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-9-1**] 08:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-9-1**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 91 (78 - 120) bpm
   BP: 102/53(63) {88/41(53) - 127/85(93)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 83.3 kg (admission): 83.3 kg
                  Total In:
                                                                  2,760 mL
                                                                    240 mL
   PO:
                                                                    760 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,000 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                      0 mL
   Urine:
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    840 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, clear paritally
   with deep breathing)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   237 K/uL
   134 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.8 mEq/L
   36 mg/dL
   113 mEq/L
   145 mEq/L
   28.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2130-8-30**]  01:18 AM
                             [**2130-8-31**]  06:00 AM
                             [**2130-9-1**]  04:28 AM
   WBC
   11.4
   12.9
   14.4
   Hct
   31.8
   29.8
   28.4
   Plt
   227
   209
   237
   Cr
   2.9
   1.8
   1.6
   Glucose
   65
   121
   134
   Other labs: PT / PTT / INR:11.6/22.8/1.0, Ca++:9.6 mg/dL, Mg++:1.7
   mg/dL, PO4:2.3 mg/dL
   Microbiology: Blood cultures: NGTD
   UCx: coag + S. Aureus, group B strep (both 10-100K)
   Assessment and Plan
 H/O DIABETES MELLITUS (DM), TYPE II:  On RISS.  Stable.  Diabetic
   diet.
 H/O HEART BLOCK, COMPLETE (CHB):  Paced.
 H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC:  Minimal crakles on
   exam, clear partially with deep breathing.
 HYPOTENSION (NOT SHOCK):  Resolved, hemodynamically stable, not
   orthostatic.  Consulted autonomic service, given he is not orthostatic
   here they have opted to arrange followup in their outpatient clinic.
   Continue to hold antiphypertensive agents and diuretics.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr still trending
   down after hydration.  Nearing baseline of 1.5.  Good urine output.
   Restart allopurinol.
 PARKINSON'S:  Continue current regimen.
 LEUKOCYTOSIS:  Patient does not appear toxic.  Differential pending.
   Has asymptomatic dysuria.  Foley removed.  Plan for repeat UA, C & S.
   Hold on starting antibiotics, follow clinically.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-8-30**] 04:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes